US05612334
10,11-Dihydro-10-[[6-(cyclohexylthio)-3-pyridinyl]carbonyl]-5H-pyrrolo-[2,1-c][1,4]benzodiazepine
To a suspension of 35 mg of sodium hydride (60% in oil) in 3 ml of tetrahydrofuran is added under argon 0.10 g of cyclohexylmercaptan. A white precipitate forms and after 0.5 hour at room temperature, 1 ml of N,N'-dimethylpropyleneurea is added. To the mixture is added 0.13 g of 10-[(6-chloro-3-pyridinyl)carbonyl]-10,11-dihydro-5[-pyrrolo[2,1-c][1,4]benzodiazepine in 2 ml of tetrahydrofuran. The mixture is stirred at room temperature for 18 hours, quenched with water and ammonium chloride and concentrated under vacuum. The aqueous suspension is filtered and the solid washed with water and hexane. The solid is purified by chromatography on silica gel prep-plates with ethyl acetate-hexane (1:4) as eluent to give 0.13 g of white solid; mass spectrum (CI): 404 (M+H).

reactant | sodium hydride | 35 mg | [H-].[Na+]
reactant | cyclohexylmercaptan | C1(CCCCC1)S | C6H12S
reactant | N,N'-dimethylpropyleneurea | 1 ml | CN1CCCN(C1=O)C | C6H12N2O
reactant | pyrrolo[2,1-c][1,4]benzodiazepine | C1=CCN2C1=CN=C1C(=C2)C=CC=C1 | C12H10N2
reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 10,11-Dihydro-10-[[6-(cyclohexylthio)-3-pyridinyl]carbonyl]-5H-pyrrolo-[2,1-c][1,4]benzodiazepine | 0.13 g | C1(CCCCC1)SC1=CC=C(C=N1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C24H25N3OS
